US09085555B2
(1R,3S,5S)-3-(3-Chloro-2-fluoro-benzylcarbamoyl)-5-methanesulfonyloxymethyl-2-aza-bicyclo[3.1.0]hexane-2-carboxylic acid tert-butyl ester
To a solution of (1R,3S,5S)-3-(3-chloro-2-fluoro-benzylcarbamoyl)-5-hydroxymethyl-2-aza-bicyclo[3.1.0]hexane-2-carboxylic acid tert-butyl ester (290 mg, 0.72 mmol) and Et3N (144 μL, 1.04 mmol) in CH2Cl2 (6.5 mL) at 0° C. under nitrogen atmosphere was added methanesulfonyl chloride (81 μL, 1.04 mmol) and the mixture was stirred at RT for 1 h. Et3N (48 μL, 0.35 mmol) and methanesulfonyl chloride (27 μL, 0.35 mmol) were again added and the mixture was further stirred for 0.5 h to complete the reaction. A saturated aqueous solution of NaHCO3 was added, the layers were separated and the aqueous layer extracted with CH2Cl2 (×2), dried (Na2SO4), filtered and concentrated. The material thus obtained was used in the next step without further purification. TLC, Rf (EtOAc)=0.65; MS (UPLC/MS): 477.3/479.3 [M+H]+, 521.3/523.3 [M+HCOO]—

reactant | (1R,3S,5S)-3-(3-chloro-2-fluoro-benzylcarbamoyl)-5-hydroxymethyl-2-aza-bicyclo[3.1.0]hexane-2-carboxylic acid tert-butyl ester | 0.72 mmol, 290 mg | C(C)(C)(C)OC(=O)N1[C@@H]2C[C@@]2(C[C@H]1C(NCC1=C(C(=CC=C1)Cl)F)=O)CO | C19H24ClFN2O4
reactant | Et3N | 1.04 mmol, 144 μL | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.04 mmol, 81 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | Et3N | 0.35 mmol, 48 μL | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.35 mmol, 27 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 6.5 mL | C(Cl)Cl | CH2Cl2
product | (1R,3S,5S)-3-(3-Chloro-2-fluoro-benzylcarbamoyl)-5-methanesulfonyloxymethyl-2-aza-bicyclo[3.1.0]hexane-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]2C[C@@]2(C[C@H]1C(NCC1=C(C(=CC=C1)Cl)F)=O)COS(=O)(=O)C | C20H26ClFN2O6S
